US07582629B2
N-Butyl-1-(3-chlorophenyl)methanesulfonamide
A solution of (3-chlorophenyl)methanesulfonyl chloride (3.00 g, 13.33 mmol) in dry THF (50 mL) was added dropwise to a solution of butylamine (2.63 mL, 26.65 mmol) in dry THF (50 mL) at 0° C. and under an atmosphere of nitrogen. After the addition was completed the ice-bath was removed and the mixture was stirred at rt for 1.5 h. It was evaporated and the residue was partitioned between DCM and HCl (1M). The combined organic layers were washed with water, dried with MgSO4 and evaporated to dryness to give the title compound (2.89 g, 83%) as a white powder; 1H NMR (500 MHz, CDCl3): δ 7.29-7.42 (m, 4H), 4.22 (s, 2H), 4.16 (bs, 1H), 2.99-3.05 (m, 2H), 1.46-1.53 (m, 2H), 1.29-1.38 (m, 2H), 0.92 (t, 3H); 13C NMR (125 MHz, CDCl3): δ 132.2, 129.0, 128.3, 127.7, 126.6, 126.4, 55.9, 41.2, 30.0, 17.3, 11.21; Mass Spectrum: M−H+ 260.

reactant | (3-chlorophenyl)methanesulfonyl chloride | 13.33 mmol, 3.00 g | ClC=1C=C(C=CC1)CS(=O)(=O)Cl | C7H6Cl2O2S
reactant | butylamine | 26.65 mmol, 2.63 mL | C(CCC)N | C4H11N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | N-Butyl-1-(3-chlorophenyl)methanesulfonamide | 2.89 g, 83% | C(CCC)NS(=O)(=O)CC1=CC(=CC=C1)Cl | C11H16ClNO2S
